US06344476B1
To a solution of N-(2-carbobenzyloxy-5-tert-butyl-3-thienyl)-N′-(4-methylphenyl)urea (0.19 g, 0.40 mmol) in EtOH (19 mL) was added 10% Pd/C (0.010 g). The resulting suspension was treated with H2 (52 psi) in a Parr® shaker for 18 h. The slurry was filtered through a pad of Celite® and concentrated under reduced pressure to afford N-(2-carboxy-5-tert-butyl-3-thienyl)-N′-(4-methylphenyl)urea (0.12 g, 90%):1H NMR (d6-DMSO) δ13 (s, 9H), 2.2 (s, 3H), 7.1 (d, 2H), 7.4 (d, 2H), 7.8 (s, 1H); FAB-LRMS m/z) 333 (M+H).

reactant | N-(2-carbobenzyloxy-5-tert-butyl-3-thienyl)-N′-(4-methylphenyl)urea | 0.40 mmol, 0.19 g | C(=O)(OCC1=CC=CC=C1)C=1SC(=CC1NC(=O)NC1=CC=C(C=C1)C)C(C)(C)C | C24H26N2O3S
solvent | EtOH | 19 mL | CCO | C2H6O
catalyst | Pd/C | 0.010 g | [Pd] | Pd
product | N-(2-carboxy-5-tert-butyl-3-thienyl)-N′-(4-methylphenyl)urea | 0.12 g, 90% | C(=O)(O)C=1SC(=CC1NC(=O)NC1=CC=C(C=C1)C)C(C)(C)C | C17H20N2O3S
